US05998433
b) Synthesis of N,N-dimethyl-[5-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.282 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.282 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C)C1=CC=CC=C1)=O | C25H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C)C1=CC=CC=C1)=O | InChI=1S/C25H28N2O2.ClH/c1-18(19-7-5-4-6-8-19)20-9-11-21(12-10-20)25(28)27-14-13-24-22(16-27)15-23(29-24)17-26(2)3;/h4-12,15,18H,13-14,16-17H2,1-3H3;1H
